US05935972
cis-3-[(5-Furan-3-yl-benzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-2-phenyl-piperidine-1-carboxylic acid tert-butyl ester (388 mg)
From cis-3-[(5-bromobenzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-2-phenyl-piperidine-1-carboxylic acid tert-butyl ester (473 mg) and 3-furanboronic acid (102 mg).

reactant | cis-3-[(5-bromobenzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-2-phenyl-piperidine-1-carboxylic acid tert-butyl ester | 473 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)N(C(=O)OC(C)(C)C)CC1=CC(=CC=2C=COC21)Br)C2=CC=CC=C2 | C30H37BrN2O5
reactant | 3-furanboronic acid | 102 mg | O1C=C(C=C1)B(O)O | C4H5BO3
product | cis-3-[(5-Furan-3-yl-benzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-2-phenyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)N(C(=O)OC(C)(C)C)CC1=CC(=CC=2C=COC21)C2=COC=C2)C2=CC=CC=C2 | C34H40N2O6
